* C:\users\vito\Documents\facu\4y\2Q\E4\tps\tp2\sim\Draft1.asc
V1 N001 0 10
L1 N001 N002 1µ
XU1 s 0 Square Vpp=10 Freq=100k Voff=5 DC=0.5 trise=1n tfall=1n Nper=1k
S1 0 N002 s 0 MYSW
C1 N003 0 500p
R1 N003 N002 58k
D1 N002 N003 MUR460
.model D D
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 2m 10u
.model MYSW SW(Roff=1G Ron=25u Vt=0.1 Vh=0.1)
.lib TCLib/square.lib
.backanno
.end
